US08871753B2
Step B: 1-(2-Bromo-4-nitrophenyl)piperazine dihydrochloride
A solution of tert-butyl 4-(2-bromo-4-nitrophenyl)piperazine-1-carboxylate (2.3 g, 5.9 mmol) in dichloromethane (15 mL) was treated with 4 M HCl in 1,4-dioxane (15 mL, 59 mmol) and stirred at 20° C. for 3 h. The reaction mixture was concentrated, diluted with a minimal amount of methanol (˜15 mL), and added dropwise to ether (300 mL) that was cooled 0° C. The solid that precipitated was collected by filtration and dried to give the desired product (1.9 g, 89%) which was used in the next step without further purification.

reactant | tert-butyl 4-(2-bromo-4-nitrophenyl)piperazine-1-carboxylate | 5.9 mmol, 2.3 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C15H20BrN3O4
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 59 mmol, 15 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 1-(2-Bromo-4-nitrophenyl)piperazine dihydrochloride | 1.9 g, 89% | Cl.Cl.BrC1=C(C=CC(=C1)[N+](=O)[O-])N1CCNCC1 | InChI=1S/C10H12BrN3O2.2ClH/c11-9-7-8(14(15)16)1-2-10(9)13-5-3-12-4-6-13;;/h1-2,7,12H,3-6H2;2*1H
